******************************
** HTRON BEHAVIORAL MODEL  * *
******************************

* This file contains the model and parameters definition
* required to simulate the hTron behavior as described in
* the publication by Karam et. al. (arXiv:2401.12360)
*
* The transient behavior defines the time-dependent response
* that the hTron will exhibit due to its non-instantaneous
* thermal response.
* It is modeled from the experimental data of activation delay
* {tau_on} (delay between the input of a current pulse and the
* switching of the channel). From this delay, a
* simple circuit mimicking the heat transfer from the heater
* to the channel is defined, through the parameter {tau_thermal}).
* The role of this circuit is to filter and delay the arrival of
* the heat pulse on the channel, simulating the propagation of the
* heat through the oxide layer.
*
* The static behavior defines the amount of suppression
* that the channel will experience due to a DC heater current
* input.
* This static behavior part is modeled by two parameters, {Jsw_tilde}
* and {Isupp_tilde}, which are extracted from the hTron
* experimental data.
* With these two parameters, the channel temperature
* is first approximated (from the input heater current),
* which further defines the channel switching current
* at each time point.
* As said above, the delayed heater current from the transient behavior
* is used to get a non-instantaneous response to a heater current
* pulse.



**************************************************
** PARAMETERS AND MODEL DEFINITION **
**************************************************

.subckt hTron_behav heater_p heater_n drain source
+ width_c=1u      width_h=0.5u          thick_c=23.6n
+ length_c=14u    sheetRes=77.9         R_h=50
+ Tc=12.5         Tsub=4.2              eta=3
+ Jsw_tilde=70G   Isupp_tilde=1024u     Jconstr=100G
+ tau_on=7.74n    ICh_bias_on=827.8u    Ih_bias_on=747.2u
*   width_c - Channel width (m)
*   width_h - Heater width (m)
*   thick_c - Channel thickness (m)
*   length_c - Channel length (m)
*   sheetRes - Sheet resistance (Ohms)
*   R_h - Heater resistance (Ohms)
*   Tc - Critical temperature (K)
*   Tsub - Substrate temperature (K)
*   eta - Efficiency factor (2 or 3)
*   Jsw_tilde - Switching current density (A/m^2)
*   Isupp_tilde - Enable suppression current density (A)
*   Jconstr - Constriction current density (A/m^2)
*   tau_on - Turn-on time (s)
*   ICh_bias_on - Channel bias current when on (A)
*   Ih_bias_on - Heater bias current when on (A)

**************************************************
** PARAMETERS **
**************************************************
* Number of squares in superconducting channel
.PARAM sq_c=length_c/width_c

* Normal state resistance
.PARAM Rnorm_c = sheetRes*length_c/width_c

* Resistivity (Ohm m)
.PARAM rho = sheetRes*thick_c

* Thermal conductivity (W/m K)
.PARAM kappa = 0.108

* Heat capacity (J/m^3 K)
.PARAM heatCapacity_c = 4400

* Thermal conductivity (W/m^2 K) of substrate interface
.PARAM hc = 50k

* Sheet inductance (pH/square)
.PARAM inductivity = {1.38p*sheetRes/Tc}

* Channel inductance (pH)
.PARAM Lind_c = {inductivity*sq_c}

* Characteristic velocity (m/s)
.PARAM vo={1*sqrt(hc*kappa/thick_c)/heatCapacity_c}

* Switching current at substrate temperature (A)
.PARAM Isw_sub = Isw(Tsub)

* Stekly parameter (unitless)
.PARAM psi = rho*(Isw_sub)**2/(hc*(width_c**2)*thick_c*(Tc-Tsub))

* Retrapping current (A)
.PARAM Ir = sqrt(2/psi)*Isw_sub

* Compute Ih_supp and Jc_0K (valid values of eta are 2 or 3)
.PARAM alpha = if(eta == 2, 0.88, 0.7)
.PARAM beta  = if(eta == 2, 1.25, 1.12)

* Ideal critical current density => At 0K
.PARAM Jc_0K = alpha * Jsw_tilde / (1 - (Tsub / Tc)**3)**2.1
  * Jsw(ih=0) is given by alpha * Jsw_tilde

* Suppressing current
.PARAM Ih_supp = beta * Isupp_tilde

* Determine the nanowire temperature from the heater current
.PARAM a = (Tc**4 - Tsub**4) / Ih_supp**eta

* Temperature at which the channel switched (i.e at which Isw(Tch)=Ich_bias_on)
.PARAM T_switch = Tc*(1-(Ich_bias_on/(Jc_0K*thick_c*width_c))**(1/2.1))**(1/3)
* Heater current needed to reach TCh = T_switch
.PARAM Ih_switch = ( (T_switch**4 - Tsub**4)/(Tc**4-Tsub**4))**(1/eta)*Ih_supp
* RC time constant that makes the filtered heater current reach Ih_switch in time tau_on
.PARAM tau_thermal = - tau_on/ln(1- (Ih_switch/Ih_bias_on) )

* a small offset for stability
.PARAM delta=0.01
  
* scaling factor for stability
.PARAM scale=1e10
  

**************************************************
** HEATER SUBCIRCUIT **
**************************************************
* Heater resistor between the two ports
R_heater heater_p heater_n {R_h}
  * Used to sense the heater current


**************************************************
** S/C SENSE SUBCIRCUIT **
**************************************************
* The sub-circuit is split into two sources for stability
B_c_Isw_state N_c_Isw_state 0
+ V = stp(
+     abs(i(Lc)) * scale
+     - V(Meas_Isw) * scale
+ )
  * V(N_c_Isw_state) is 1 if the current in channel overcomes Isw, 0 otherwise

B_c_state N_c_state 0
+ V = buf(
+     V(N_c_Isw_state) 
+     | 
+     ((V(N_c_hotspot) > 0) 
+     & 
+     stp(
+         abs(i(Lc)) * scale 
+         - V(Meas_Ihs) * scale
+     ))
+ )
  * V(N_c_state) is 0 if wire s/c, 1 if normal

**************************************************
** HOTSPOT GROWTH INTEGRATOR SUBCIRCUIT **
**************************************************
B_c_hotspot N_c_hotspot 0 V = sdt(
+   if(
+       V(N_c_state) & (V(N_c_hotspot) < Rnorm_c),  
+       ( 
+           (2 * sheetRes * vo / width_c) * 
+           (
+               psi * (i(Lc) / V(Meas_Isw))**2 - 2
+           ) /
+           (
+               sqrt(
+                   (
+                       (psi * (i(Lc) / V(Meas_Isw))**2 - 1) + 
+                       abs(psi * (i(Lc) / V(Meas_Isw))**2 - 1)
+                   ) / 2
+               ) + {delta}
+           )
+       ),
+       0
+   ), 
+   0, 
+   V(N_c_state) < 0.5
+ )

**************************************************
** TRANSIENT BEHAVIOR: HEAT TRANSFER SUB-CIRCUIT **
**************************************************

* Lumped-elements circuit, mimics the heat transfer
B_heat N001 0 
+ V = I(R_heater)

R1 heat N001 1
C1 heat 0 {tau_thermal}
  * {tau_thermal} makes sure the activation delay is {tau_on} at the bias point [Ich_bias_on, Ih_bias_on]
  * V(heat) is the "filtered" output node of the subcircuit


**************************************************
** STATIC BEHAVIOR: PARAMETERS AND FITTING **
**************************************************

.func TCh(I) 
+ (a * I**eta + Tsub**4) ** 0.25

* Determine the switching current from the nanowire temperature
.func Isw(T) 
+ Jc_0K * width_c * thick_c * (1 - (T / Tc)**3) ** 2.1


**************************************************
** BEHAVIORAL SOURCES **
**************************************************

* Used to get values of functions at every time point
B1 Meas_TCh 0 
+ V = TCh(V(heat))
  * Channel temperature

B2 Meas_Isw 0 
+ V = min(Jconstr * width_c * thick_c , Isw(V(Meas_TCh)))
  * Channel switching current, with the possibility of adding a constriction plateau

* Replace 1 by 0.99 in B3 to improve stability in large circuits
B3 Meas_Ihs 0 
+ V = min(Ir , 1 * V(Meas_Isw))
  * Retrapping current


**************************************************
** MAIN NANOWIRE CIRCUIT **
**************************************************

Lc drain N_hs 
+ Flux = {Lind_c} * x / (2.0 * cos(0.67 * asin(0.6 * abs(x) / Isw_sub)) - 1) 
+ Rser = 1e-100 
+ Rpar = 1e6
  * Channel inductor

B_Rhs N_hs source 
+ V = V(N_c_hotspot) * i(B_Rhs)
  * V(N_c_hotspot) is the hotspot resistance


.ends hTron_behav
